US04382951
(b) 4-Formyl-2H-1-benzothiopyrane
0.5 g of 4-cyano-2H-1-benzothiopyrane in 2 ml of benzene are reacted with 2 ml of a 20% solution of diisobutylaluminium hydride in toluene and the mixture stirred for 4 hours at room temperature. The resulting mixture is poured onto 20% H2SO4 and the organic phase separated, washed with saturated aqueous NaCl and dried over MgSO4. After concentration by evaporation the product is purified by chromatography over kieselgel (eluant hexane/ethyl acetate).

reactant | 4-cyano-2H-1-benzothiopyrane | 0.5 g | C(#N)C1=CCSC2=C1C=CC=C2 | C10H7NS
reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Formyl-2H-1-benzothiopyrane | C(=O)C1=CCSC2=C1C=CC=C2 | C10H8OS
